US07629363B2
5-[3-Chloro-4-(2,4-difluorobenzyloxy)-6-methyl-2-oxo-2H-pyridin-1-ylmethyl]-1,3-dihydro-indol-2-one
5-[3-Chloro-4-(2,4-difluorobenzyloxy)-6-methyl-2-oxo-2H-pyridin-1-ylmethyl]-3,3-dibromo-1H-indol-2-one (0.2 g, 0.34 mmol) was suspended in 5 mL of acetic acid, and zinc metal (0.22 g, 3.4 mmol) was added. The reaction was stirred for 48 hours. The reaction was diluted with water, and washed 2 times with ethyl acetate. The combined organics were washed 1 time with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 100% EtOAc) gave a white solid (0.12 g, 82%): 1H NMR (300 MHz, DMSO-d6) δ 10.37 (br s, 1H), 7.65 (app q, J=6.9 Hz, 1H), 7.34 (dt, J=8.2, 2.5 Hz, 1H), 7.18 (dt, J=7.1, 1.9, 1H), 6.98 (br s, 2H), 6.77 (d, J=8.4 Hz, 1H), 6.57 (s, 1H), 5.28 (s, 2H), 5.23 (s, 2H), 3.44 (s, 2H), 2.34 (s, 3H).

reactant | 5-[3-Chloro-4-(2,4-difluorobenzyloxy)-6-methyl-2-oxo-2H-pyridin-1-ylmethyl]-3,3-dibromo-1H-indol-2-one | 0.34 mmol, 0.2 g | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1C=C2C(C(NC2=CC1)=O)(Br)Br)=O | C22H15Br2ClF2N2O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | zinc | 3.4 mmol, 0.22 g | [Zn] | Zn
product | 5-[3-Chloro-4-(2,4-difluorobenzyloxy)-6-methyl-2-oxo-2H-pyridin-1-ylmethyl]-1,3-dihydro-indol-2-one | 0.12 g, 82% | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1C=C2CC(NC2=CC1)=O)=O | C22H17ClF2N2O3
